US08372981B2
6,7-Dimethoxy-4-(4-(2-nitrophenylmethylimino)phenyloxy)quinoline
6,7-Dimethoxy-4-(4-aminophenyloxy)quinoline (500 mg, 1.6873 mmol) was dissolved in tetrahydrofuran (64 ml), and after adding 2-nitrobenzaldehyde (320 mg, 2.1091 mmol) and acetic acid (0.58 ml), sodium triacetoxyborohydride (720 mg, 3.3746 mmol) was further added and the mixture was stirred at room temperature for 11 hours and 30 minutes. Water and saturated saline were added, the mixture was extracted with ethyl acetate, washed with saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained crystals were washed with hexane-diethyl ether, filtered out, washed with hexane and dried by aspiration at room temperature to obtain the title compound (453 mg) as light yellow crystals.

reactant | 6,7-Dimethoxy-4-(4-aminophenyloxy)quinoline | 1.6873 mmol, 500 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2-nitrobenzaldehyde | 2.1091 mmol, 320 mg | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | acetic acid | 0.58 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.3746 mmol, 720 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 64 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 6,7-Dimethoxy-4-(4-(2-nitrophenylmethylimino)phenyloxy)quinoline | 453 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CCC(C=C1)=NCC1=C(C=CC=C1)[N+](=O)[O-] | C24H21N3O5
